US04210663
Following the procedure of Example 2, 6-chloro-4-cyano-4-trimethylsilyloxy-3,4-dihydro-2H-1-benzothiopyran (5.8 g.) was reacted with stannous chloride dihydrate in glacial acetic acid (25 ml.) and concentrated hydrochloric acid (25 ml.). Recrystallization from benzene:cyclohexane gave 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid (2.59 g.), m.p. 153°-154° C.

reactant | 6-chloro-4-cyano-4-trimethylsilyloxy-3,4-dihydro-2H-1-benzothiopyran | 5.8 g | ClC=1C=CC2=C(C(CCS2)(O[Si](C)(C)C)C#N)C1 | C13H16ClNOSSi
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 6-chloro-3,4-dihydro-2H-1-benzothiopyran-4-carboxylic acid | 2.59 g | ClC=1C=CC2=C(C(CCS2)C(=O)O)C1 | C10H9ClO2S
